US07541372B2
1-(2-{2-Fluoro-5-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenylamino}-ethyl)-pyrrolidin-2-one
As described for example 26, 2-(4,5-difluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole (200 mg, 0.54 mmol) instead of 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole was converted using 1-(2-amino-ethyl) -pyrrolidin-2-one instead of thiomorpholine to the title compound (231 mg, 89%) which was obtained as an off-white solid. MS: m/e=478.2 [M+H]+.

reactant | 2-(4,5-difluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 0.54 mmol, 200 mg | FC1=CC(=C(C=C1F)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC | C19H13F2N3O3
reactant | 1-(2-amino-ethyl) -pyrrolidin-2-one | NCCN1C(CCC1)=O | C6H12N2O
product | 1-(2-{2-Fluoro-5-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenylamino}-ethyl)-pyrrolidin-2-one | 231 mg, 89% | FC1=C(C=C(C(=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC)NCCN1C(CCC1)=O | C25H24FN5O4
